US07452911B2
3.39b 5-bromo-N2-(2-pyrrolidin-1-yl-ethyl)-pyridine-2,3-diamine
2.44 g (10.8 mmol) Zinn(II)chloride dihydrate and 2.20 g (26.2 mmol) NaHCO3 are added to a solution of 680 mg (2.16 mmol) (5-bromo-3-nitro-pyridin-2-yl)-(2-pyrrolidin-1-yl-ethyl)-amine in 40 mL EtOAc at RT. The reaction is refluxed for 1.5 h and then diluted with 20 mL water. The aqueous phase is acidified with 1 M HCl and separated off from the organic phase. The aqueous phase is made alkaline with saturated K2CO3 solution and extracted twice with 40 mL EtOAc. The organic phase is dried over Na2SO4 and the solvent is eliminated i.vac.

reactant | NaHCO3 | 26.2 mmol, 2.20 g | C(=O)(O)[O-].[Na+]
reactant | (5-bromo-3-nitro-pyridin-2-yl)-(2-pyrrolidin-1-yl-ethyl)-amine | 2.16 mmol, 680 mg | BrC=1C=C(C(=NC1)NCCN1CCCC1)[N+](=O)[O-] | C11H15BrN4O2
reactant | HCl | 1 M | Cl | ClH
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 mL | O | H2O
product | 5-bromo-N2-(2-pyrrolidin-1-yl-ethyl)-pyridine-2,3-diamine | BrC=1C=C(C(=NC1)NCCN1CCCC1)N | C11H17BrN4
